US07420001B2
To a solution of 4-ethynyl-3-methyl-benzofuran-2-carboxylic acid ethyl ester (228 mg, 0.99 mmol, 1 eq.) in acetonitrile (5 mL) under argon, was added di-tert-butyl dicarbonate (327 mg, 1.5 mmol, 1.5 eq.), and 4-(dimethylamino)pyridine (12 mg, 0.1 mmol, 0.1 eq.). Nitroethane (79 uL, 1.1 mmol, and 1.1 eq.) in acetonitrile (5 mL) was added drop-wise to the reaction mixture, and the reaction was stirred at room temperature for 72 hours. After work-up and flash column chromatography, 3-methyl-4-(3-methyl-isoxazol-5-yl)-benzofuran-2-carboxylic acid ethyl ester was obtained in 25% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.4 (t, J=7.1 Hz, 3 H) 2.3 (s, 3 H) 2.4 (s, 3 H) 4.4 (q, J=7.1 Hz, 2 H) 6.8 (s, 1 H) 7.5 (dd, J=7.5, 0.9 Hz, 1 H) 7.6 (m, 1 H) 7.9 (dd, J=8.5, 0.9 Hz, 1 H).

reactant | 4-ethynyl-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 0.99 mmol, 228 mg, 1 eq. | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C#C | C14H12O3
reactant | di-tert-butyl dicarbonate | 1.5 mmol, 327 mg, 1.5 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Nitroethane | 1.1 mmol, 79 uL, 1.1 eq. | [N+](=O)([O-])CC | C2H5NO2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | 4-(dimethylamino)pyridine | 0.1 mmol, 12 mg, 0.1 eq. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-methyl-4-(3-methyl-isoxazol-5-yl)-benzofuran-2-carboxylic acid ethyl ester | 25% yield | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C2=CC(=NO2)C | C16H15NO4
